US07579473B2
(S)-(+)-Prolinol (6.00 g, 59.3 mmol) was added to epichlorohydrin (47 mL, 600 mmol) at 0° C. The solution was stirred at 40° C. for 0.5 h and then concentrated in vacuo. The residual oil was cooled in an ice bath and concentrated sulfuric acid (18 mL) was added dropwise with stirring. The mixture was heated at 170-180° C. for 1.5 h, poured into ice (300 mL) and then basified with sodium carbonate to pH˜8. The mixture was partitioned with ethyl acetate/hexanes and filtered. The filtrate was separated and the aqueous portion was extracted twice with ethyl acetate. The combined organic portion was dried over sodium sulfate, filtered and concentrated in vacuo to afford oil that was purified by column chromatography (ethyl acetate for less polar product and then 30% methanol in ethyl acetate). (3S,8aS)-3-(Chloromethyl)hexahydro-1H-pyrrolo[2,1-c][1,4]oxazine (less polar product) (1.87 g, 10.7 mmol, 18% yield): 1H NMR (400 MHz, CDCl3): 4.06 (dd, 1H), 3.79-3.71 (m, 1H), 3.60-3.48 (m, 2H), 3.36 (dd, 1H), 3.15 (dd, 1H), 3.13-3.06 (m, 1H), 2.21-2.01 (m, 3H), 1.90-1.68 (m, 3H), 1.39-1.24 (m, 1H); MS (EI) for C8H14NOCl: 176 (MH+). (3R,8aS)-3-(Chloromethyl)hexahydro-1H-pyrrolo[2,1-c][1,4]oxazine (1.54 g, 8.77 mmol, 15% yield): 1H NMR (400 MHz, CDCl3): 3.94-3.77 (m, 4H), 3.55 (dd, 1H), 3.02-2.93 (m, 2H), 2.45 (dd, 1H), 2.29-2.15 (m, 2H), 1.88-1.64 (m, 3H), 1.49-1.38 (m, 1H); MS (EI) for C8H14NOCl: 176 (MH+).

reactant | (S)-(+)-Prolinol | 59.3 mmol, 6.00 g | N1[C@H](CO)CCC1 | C5H11NO
reactant | epichlorohydrin | 600 mmol, 47 mL | C(Cl)C1CO1 | C3H5ClO
product | (3R,8aS)-3-(Chloromethyl)hexahydro-1H-pyrrolo[2,1-c][1,4]oxazine | 8.77 mmol, 1.54 g, 15% yield | ClC[C@H]1CN2[C@H](CO1)CCC2 | C8H14ClNO
